US04576938
2.45 g of 7β-aminocephalosporanic acid and 1.31 g of 1-formamido-5-mercapto-1H-tetrazole were dissolved in 13 ml of acetonitrile, and 4.32 g of methanesulfonic acid were added dropwise thereto at room temperature under stirring. The mixture was stirred at room temperature for 30 minutes and then at 50° C. for 4 hours. 15 ml of water were added to the reaction mixture, and said mixture was adjusted to pH 5 with 28% ammonia. The resultant precipitates were collected by filtration, washed with water and acetone, and then dried. 2.43 g of 7β-amino-3-[(1-formamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid were obtained as pale yellow powder.

reactant | 7β-aminocephalosporanic acid | 2.45 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 1-formamido-5-mercapto-1H-tetrazole | 1.31 g | C(=O)NN1N=NN=C1S | C2H3N5OS
reactant | methanesulfonic acid | 4.32 g | CS(=O)(=O)O | CH4O3S
reactant | ammonia | N | H3N
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
solvent | water | 15 ml | O | H2O
product | 7β-amino-3-[(1-formamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 2.43 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2NC=O)C(=O)O)C1=O | C10H11N7O4S2
